US07767677B2
Triethylamine (2.0 mL) was added to an ice cold solution of 3-chloro-6-piperazin-1-ylpyridazine (1.00 g, 6.69 mmol) in dichloromethane (10 mL), followed by the addition of 2-trifluoromethylbenzoyl chloride (2.10 g, 10.03 mmol). The mixture was allowed to warm up to room temperature and then stirred for 30 minutes. The solvent was removed in vacuo and the crude mixture was dissolved in ethyl acetate (15 mL), washed with water and dried over anhydrous Na2SO4. [4-(6-chloropyridazin-3-yl)piperazin-1-yl]-(2-trifluoromethylphenyl)methanone was obtained as a thick liquid after purified by column chromatography in 79% yield (1.96 g). 1H NMR (300 MHz, CDCl3) δ 7.71 (d, J=7.9 Hz, 1H), 7.63-7.50 (m, 2H), 7.32 (d, J=7.3 Hz, 1H), 7.21 (t, J=4.4 Hz, 1H), 6.92 (d, J=9.5 Hz, 1H), 4.20-3.92 (m, 1H), 3.92-3.80 (m, 1H), 3.70-3.55 (m, 4H), 3.30 (t, J=5.3 Hz, 1H). 13C NMR (75 MHz, CDCl3) δ 167.6, 158.7, 147.7, 134.2, 134.2, 132.3, 129.5, 129.1, 127.2, 126.8, 126.8, 115.6, 46.3, 45.2, 44.7, 41.2. MS (ES+) m/z 371.1 and 373.1 (M+1).

reactant | Triethylamine | 2.0 mL | C(C)N(CC)CC | C6H15N
reactant | 3-chloro-6-piperazin-1-ylpyridazine | 6.69 mmol, 1.00 g | ClC=1N=NC(=CC1)N1CCNCC1 | C8H11ClN4
reactant | 2-trifluoromethylbenzoyl chloride | 10.03 mmol, 2.10 g | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | [4-(6-chloropyridazin-3-yl)piperazin-1-yl]-(2-trifluoromethylphenyl)methanone | 79% yield | ClC1=CC=C(N=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C16H14ClF3N4O
